US08426411B2
A round bottom flask was charged with 8-ethyl-N′-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)-1,4-dioxaspiro[4.4]nonane-7-carbohydrazide (4.90 g, 10.1 mmol) and 1,4-dioxane (50 mL). To the flask was added DIEA (8.81 mL, 50.5 mmol) followed by the addition of thionyl chloride (0.770 mL, 10.6 mmol). The mixture was heated to about 75° C. for about 90 min. Additional thionyl chloride (0.074 mL, 1.0 mmol) was added and heating was continued for about 1 h. The reaction was cooled to rt and stirred overnight. The solution was diluted with DCM (75 mL) and washed with water (50 mL). The layers were separated and the organic layer was dried over anhydrous MgSO4, filtered, and concd under reduced pressure to give a dark brown oil. The crude product was purified via flash silica gel chromatography eluting with a gradient of 0-60% acetone in heptane. The product containing fractions were combined and concd to give material that was loaded onto a second column eluting with a gradient of 0-60% acetone in heptane. The product containing fractions were combined and concd under reduced pressure to give 1-(8-ethyl-1,4-dioxaspiro[4.4]nonan-7-yl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine as a tan powder (3.0 g, 64%): LC/MS (Table 1, Method c) Rt=1.44 min; MS m/z: 468 (M+H)+.

reactant | 8-ethyl-N′-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)-1,4-dioxaspiro[4.4]nonane-7-carbohydrazide | 10.1 mmol, 4.90 g | C(C)C1C(CC2(OCCO2)C1)C(=O)NNC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C23H27N5O5S
reactant | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | DIEA | 50.5 mmol, 8.81 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | thionyl chloride | 10.6 mmol, 0.770 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 1.0 mmol, 0.074 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 1-(8-ethyl-1,4-dioxaspiro[4.4]nonan-7-yl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 3.0 g, 64% | C(C)C1C(CC2(OCCO2)C1)C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C23H25N5O4S
